US07598384B2
2-Benzyloxy-7,7-dimethyl-7,8-dihydro-6H-quinolin-5-one hydrochloride
In analogy to the procedure described in Example 9, 2-chloro-7,7-dimethyl-7,8-dihydro-6H-quinolin-5-one was treated with benzyl alcohol to give the title compound in 33% yield.

reactant | 2-chloro-7,7-dimethyl-7,8-dihydro-6H-quinolin-5-one | ClC1=NC=2CC(CC(C2C=C1)=O)(C)C | C11H12ClNO
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
product | 2-Benzyloxy-7,7-dimethyl-7,8-dihydro-6H-quinolin-5-one hydrochloride | 33% yield | Cl.C(C1=CC=CC=C1)OC1=NC=2CC(CC(C2C=C1)=O)(C)C | InChI=1S/C18H19NO2.ClH/c1-18(2)10-15-14(16(20)11-18)8-9-17(19-15)21-12-13-6-4-3-5-7-13;/h3-9H,10-12H2,1-2H3;1H
